US06288061B1
5-(4-Chlorophenyl)-2-(4-hydroxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide, 2-hydroxyethyl acetate, triphenylphosphine and diethyl azodicarboxylate are reacted and treated in the same manner as in Example 24 to give 2-(4-(2-acetoxyethyloxy)phenyl)-5-(4-chlorophenyl)-N-(2-thiazolyl)imidazole-4-carboxamide.

reactant | 5-(4-Chlorophenyl)-2-(4-hydroxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide | ClC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)O)C(=O)NC=1SC=CN1 | C19H13ClN4O2S
reactant | 2-hydroxyethyl acetate | C(C)(=O)OCCO | C4H8O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 2-(4-(2-acetoxyethyloxy)phenyl)-5-(4-chlorophenyl)-N-(2-thiazolyl)imidazole-4-carboxamide | C(C)(=O)OCCOC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)NC=1SC=CN1)C1=CC=C(C=C1)Cl | C23H19ClN4O4S
